US04859678
1-[(6-methylergolin -8β- yl)methyl]-2,4-imidazolidinedione-N-oxide
Repeating Example 1 but using 1-[(6-methylergolin -8β- yl)methyl]-2,4-imidazolidinedione instead of 1-[(6-methyl -Δ- 9,10-ergolen -8β- methyl]-2,4-(1H,3H)-pyrimidinedione the title compound was obtained in 63% yield, m.p. 163-165° C.

reactant | 1-[(6-methylergolin -8β- yl)methyl]-2,4-imidazolidinedione | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CN3C(NC(C3)=O)=O | C19H22N4O2
reactant | 2,4-(1H,3H)-pyrimidinedione | N1C(NC(C=C1)=O)=O | C4H4N2O2
product | 1-[(6-methylergolin -8β- yl)methyl]-2,4-imidazolidinedione-N-oxide | 63% yield | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)C[N+]3(C(NC(C3)=O)=O)[O-] | C19H22N4O3
